US04788199
Sodium hydride (2.1 g, 60% strength in oil) and anhydrous tetrahydrofuran (50 cc) are placed under nitrogen. A solution of diethyl methylmalonate (9.1 g) in anhydrous tetrahydrofuran (50 cc) is added dropwise. Stirring is continued for 1 hour at room temperature (approximately 20° C.) and a solution of 1-bromomethyl-3-phenylisoquinoline (10.4 g) in anhydrous tetrahydrofuran (100 cc) is added. After 20 hours of contact, water (200 cc) is added and the aqueous phase extracted with ethyl acetate (3×50 cc). After removal of the solvents under reduced pressure, the product (19 g) recovered is brought to boiling for 20 hours in concentrated hydrochloric acid (70 cc) and acetic acid (70 cc). After being cooled, the mixture is poured into water (1000 cc) and alkalinised to pH 10 with sodium hydroxide solution, and the aqueous phase is washed with ethyl acetate (100 cc) acidified with hydrochloric acid and extracted with chloroform (3×200 cc). The organic phase is dried over magnesium sulphate, filtered and evaporated to dryness under reduced pressure. α-Methyl-3-phenyl-1isoquinolinepropanoic acid (7.4 g), m.p. 184° C., is obtained.

reactant | Sodium hydride | 2.1 g | [H-].[Na+]
reactant | diethyl methylmalonate | 9.1 g | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | 1-bromomethyl-3-phenylisoquinoline | 10.4 g | BrCC1=NC(=CC2=CC=CC=C12)C1=CC=CC=C1 | C16H12BrN
reactant | water | 200 cc | O | H2O
solvent | tetrahydrofuran | 50 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 cc | O1CCCC1 | C4H8O
product | α-Methyl-3-phenyl-1isoquinolinepropanoic acid | 7.4 g | CC(C(=O)O)CC1=NC(=CC2=CC=CC=C12)C1=CC=CC=C1 | C19H17NO2
